US03953476
This product is prepared by replacing the 2,4-dichloro-5-chlorosulfonylbenzoic acid employed in Example 1, Step A, by an equimolecular proportion of 4-methyl-5-chlorosulfonylanthranilic acid and then following substantially the same procedure described in Example 1, Steps A and B, there is obtained 4-methyl-5-methylsulfonylanthranilic acid employed in the following step without purification. The compound thus obtained is combined with excess furfural and heated on a water bath at about 80° C. The water formed during the reaction is removed by azeotropic distillation with the excess furfural at about 15 mm. Hg. pressure over a one hour period. The 2-furfurylideneamino-4-methyl-5-methylsulfonylbenzoic acid formed is stirred while cooling in acetic acid while a mixture of trimethylamine-borane complex in acetic acid is added over a 10 minute period. The reaction mixture then is heated on the steam bath for 5-10 minutes, then quenched in ice water to give 2-furfurylamino-4-methyl-5-methylsulfonylbenzoic acid.

reactant | 2,4-dichloro-5-chlorosulfonylbenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)Cl | C7H3Cl3O4S
reactant | 4-methyl-5-chlorosulfonylanthranilic acid | CC=1C=C(C(C(=O)O)=CC1S(=O)(=O)Cl)N | C8H8ClNO4S
product | 4-methyl-5-methylsulfonylanthranilic acid | CC=1C=C(C(C(=O)O)=CC1S(=O)(=O)C)N | C9H11NO4S
